US04652669
51 g (0.5 mole) of ethyl glyoxylate, 85.5 g (0.5 mole) of N,N-diethylaminoethyl acrylate and 5 g (62.5 millimoles) of DABCO in 100 ml of absolute dioxane are reacted by a method similar to that described in Example 6. 74 g (54% of theory) of diethylaminoethyl 2-(1-hydroxycarbethoxymethyl)-acrylate are obtained.

reactant | ethyl glyoxylate | 0.5 mole, 51 g | C(C=O)(=O)OCC | C4H6O3
reactant | N,N-diethylaminoethyl acrylate | 0.5 mole, 85.5 g | C(C=C)(=O)OCCN(CC)CC | C9H17NO2
reactant | DABCO | 62.5 millimoles, 5 g | C1CN2CCN1CC2 | C6H12N2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | diethylaminoethyl 2-(1-hydroxycarbethoxymethyl)-acrylate | 74 g, 54% | OC(OC(=O)CC(C(=O)OCCN(CC)CC)=C)C | C13H23NO5
